US08003649B2
Lithium hydroxide monohydrate (0.154 g, 3.66 mmol) was added to methyl 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoate (1.35 g, 3.33 mmol) in a mixture of methanol (30 mL) and water (15 mL). The resulting suspension was stirred at 50° C. for 16 hours. The mixture was cooled to room temperature, the methanol evaporated and the aqueous residue treated with 1M citric acid until precipitation ceased. The precipitate was collected by filtration, washed with water and dried to give 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoic acid (1.26 g, 97%) as a solid.

reactant | Lithium hydroxide monohydrate | 3.66 mmol, 0.154 g | O.[OH-].[Li+]
reactant | methyl 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoate | 3.33 mmol, 1.35 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(C(=O)OC)C=C2)(F)F | C19H18F3N5O2
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoic acid | 1.26 g, 97% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(C(=O)O)C=C2)(F)F | C18H16F3N5O2
